US07592358B2
49.1d. 3-fluoro-5-(4-methylcyclohex-1-enyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine
The product was prepared analogously to Example 48.1c from 130 mg (0.60 mmol) of 2-ethynyl-3-fluoro-5-(4-methylcyclohex-1-enyl)pyridine and 207 mg (0.60 mmol) of 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine (Example 19.1 a) (24 at RT, triethylamine as base). Yield: 15 mg (6% of theoretical); C28H33FN2O (M=432.573); calc.: molpeak (M+H)+:433; found: molpeak (M+H)+:433; HPLC-MS: 5.60 minutes (method H).

reactant | 2-ethynyl-3-fluoro-5-(4-methylcyclohex-1-enyl)pyridine | 0.60 mmol, 130 mg | C(#C)C1=NC=C(C=C1F)C1=CCC(CC1)C | C14H14FN
reactant | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine | 0.60 mmol, 207 mg | IC1=CC=C(OCCN2CCC(CC2)C)C=C1 | C14H20INO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-fluoro-5-(4-methylcyclohex-1-enyl)-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine | FC=1C(=NC=C(C1)C1=CCC(CC1)C)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C | C28H33FN2O
